US07585880B2
3-{4-[(4-{[(4-isopropyl-1,3-thiazol-2-yl)(2-phenylethyl)amino]methyl}benzyl)oxy]phenyl}propanoic acid
A mixture of methyl 3-{4-[(4-{[(4-isopropyl-1,3-thiazol-2-yl)(2-phenylethyl)amino]methyl}benzyl)oxy]phenyl}propanoate (350 mg), 2N aqueous sodium hydroxide solution (2 mL) and ethanol (5 mL) was stirred at room temperature for 1 hr. The reaction mixture was diluted with water, neutralized with 1N hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate and concentrated to give the title compound (210 mg, yield 62%) as colorless crystals.

reactant | methyl 3-{4-[(4-{[(4-isopropyl-1,3-thiazol-2-yl)(2-phenylethyl)amino]methyl}benzyl)oxy]phenyl}propanoate | 350 mg | C(C)(C)C=1N=C(SC1)N(CCC1=CC=CC=C1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C32H36N2O3S
reactant | sodium hydroxide | 2N, 2 mL | [OH-].[Na+]
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
product | 3-{4-[(4-{[(4-isopropyl-1,3-thiazol-2-yl)(2-phenylethyl)amino]methyl}benzyl)oxy]phenyl}propanoic acid | 210 mg, yield 62% | C(C)(C)C=1N=C(SC1)N(CCC1=CC=CC=C1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)O)C=C1 | C31H34N2O3S
